US08193237B2
tert-Butyl N-[1-(3-bromophenyl)ethyl]-N-cyclopropylcarbamate (Reference compound 29-1)
Cyclopropylamine (2.9 mL, 42 mmol) was added to a solution of 3-bromoacetophenone (2.0 g, 10 mmol) in anhydrous methanol (10 mL), and the mixture was stirred at 50° C. overnight. After the reaction mixture was concentrated under reduced pressure, sodium borohydride (0.57 g, 15 mmol) was added to a solution of the residue in anhydrous methanol (10 mL). The mixture was stirred at room temperature for 3 hours, and was concentrated under reduced pressure. Water (20 mL) was added to the residue, and the whole was extracted with ethyl acetate (20 mL). The organic layer was washed with water (20 mL), brine (20 mL), and dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, a solution of di-tert-butyl dicarbonate (2.2 g, 10 mmol) in tetrahydrofuran (10 mL) was added to the residue and the mixture was stirred at room temperature overnight. 10% Citric acid aqueous solution (20 mL) was added to the reaction mixture, and the whole was extracted with ethyl acetate (20 mL). The organic layer was washed with water (20 mL), saturated sodium hydrogen carbonate aqueous solution (20 mL), water (10 mL), brine (20 mL), and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title reference compound (3.1 g) as a colorless oil (yield 92%).

reactant | Cyclopropylamine | 42 mmol, 2.9 mL | C1(CC1)N | C3H7N
reactant | 3-bromoacetophenone | 10 mmol, 2.0 g | CC(=O)C1=CC(=CC=C1)Br | C8H7BrO
reactant | sodium borohydride | 15 mmol, 0.57 g | [BH4-].[Na+]
reactant | di-tert-butyl dicarbonate | 10 mmol, 2.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Citric acid | 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-Butyl N-[1-(3-bromophenyl)ethyl]-N-cyclopropylcarbamate | 3.1 g, yield 92% | BrC=1C=C(C=CC1)C(C)N(C(OC(C)(C)C)=O)C1CC1 | C16H22BrNO2
